US07186734B2
Preparation of (5-butyl-3-chloro-6-phenyl-pyridazin-4-ylmethyl)-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-(3-ethoxy-benzyl)-amine (183)
(2,3-Dihydro-benzo[1,4]dioxin-6-ylmethyl)-(3-ethoxy-benzyl)-amine (0.211 g, 0.7 mmol) and K2CO3 (0.69 g, 3 mmol) is added to a solution of 5-butyl-3-chloro-4-chloromethyl-6-phenyl-pyridazine hydrochloride (0.175 g, 0.6 mmol) in CH3CN (15 mL). The mixture is stirred at 80° C. overnight. The solvent is removed in vacuo and the residue is partitioned between water (20 mL) and EtOAc (20 mL). The organic layer is washed with water (15 mL), brine (15 mL), then dried (Na2SO4). Evaporation of the solvent in vacuo provides a yellow oil. Preparative TLC (3:1 Hexane, EtOAc) of the residue provides a light yellow oil. LC-MS (M+1) 558 1H NMR (δ, CDCl3) 7.36–7.48 (m, 5H), 7.18 (t, J=7.2 Hz, 1H), 6.72–6.89 (m, 6H), 4.21 (s, 4H), 4.01 (q, J=7.2 Hz, 2H), 3.80 (s, 2H), 3.56 (s, 2H), 3.50 (s, 2H), 2.70 (t, J=7.2 Hz, 2H), 1.41 (t, J=6.9 Hz, 3H), 0.84–1.02 (m, 4H), 0.58 (t, J=7.2 Hz, 3H).

reactant | (2,3-Dihydro-benzo[1,4]dioxin-6-ylmethyl)-(3-ethoxy-benzyl)-amine | 0.7 mmol, 0.211 g | O1CCOC2=C1C=CC(=C2)CNCC2=CC(=CC=C2)OCC | C18H21NO3
reactant | K2CO3 | 3 mmol, 0.69 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-butyl-3-chloro-4-chloromethyl-6-phenyl-pyridazine hydrochloride | 0.6 mmol, 0.175 g | Cl.C(CCC)C=1C(=C(N=NC1C1=CC=CC=C1)Cl)CCl
reactant | Hexane | CCCCCC | C6H14
solvent | CH3CN | 15 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (5-butyl-3-chloro-6-phenyl-pyridazin-4-ylmethyl)-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-(3-ethoxy-benzyl)-amine | C(CCC)C=1C(=C(N=NC1C1=CC=CC=C1)Cl)CN(CC1=CC(=CC=C1)OCC)CC1=CC2=C(OCCO2)C=C1 | C33H36ClN3O3
